US07635715B2
Step C: Preparation of 2-(2-Ethynylphenyl)propanenitrile
2-(2-(2-(Trimethylsilyl)ethynyl)phenyl)propanenitrile (2.16 g, 9 mmol) was stirred with 5N NaOH (10 mL, 50 mmol) and THF (20 mL) at room temperature for 1 hour. The reaction mixture was acidified with 5N HCl (13 mL) until the pH was about 2. The aqueous mixture was then extracted with EtOAc (3×50 mL). The combined organic layers were extracted with water (3×50 mL) and once with brine (50 mL), dried with MgSO4, and concentrated in vacuo to afford a brown oil. MS (m/z)=156 (M+H)+.

reactant | 2-(2-(2-(Trimethylsilyl)ethynyl)phenyl)propanenitrile | 9 mmol, 2.16 g | C[Si](C#CC1=C(C=CC=C1)C(C#N)C)(C)C | C14H17NSi
reactant | NaOH | 50 mmol, 5N, 10 mL | [OH-].[Na+]
reactant | HCl | 5N, 13 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2-Ethynylphenyl)propanenitrile | C(#C)C1=C(C=CC=C1)C(C#N)C | C11H9N
